US04721367
(1) Synthesis of 5-(p-octyloxyphenyl)pyrazine-2,3-dicarbonitrile:
Selenium dioxide in an amount of 11.4 g (0.1 mol) was mixed with 100 ml of dioxide and 2 ml of water. The mixture was stirred for 2 hours at 70°-75° C., and a solution of 24.8 g (0.1 mol) of p-octyloxyacetophenone in 60 ml of dioxane was added thereto. After 2 hours of refluxing, the mixture was cooled to precipitate metal selenium, which was then removed by filtration. Into the filtrate were added 10.8 g (0.1 mol) of diaminomaleonitrile and 3.0 ml of acetic acid, and the mixture was refluxed for 2 hours at 90°-93° C. After the reaction, the mixture was subjected to cooling and filtration, and the filtrate was condensed to obtain a crude product. The crude product was subjected to recrystallization from hexane to obtain 27.2 g (82% yield) of the product. The meling point: 79° C., IR (νcm-1): 2245 (C≡N).

reactant | Selenium dioxide | [Se](=O)=O | O2Se
reactant | water | 2 ml | O | H2O
reactant | p-octyloxyacetophenone | 0.1 mol, 24.8 g | C(CCCCCCC)OC1=CC=C(C=C1)C(C)=O | C16H24O2
reactant | diaminomaleonitrile | 0.1 mol, 10.8 g | N/C(=C(/C#N)\N)/C#N | C4H4N4
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
product | 5-(p-octyloxyphenyl)pyrazine-2,3-dicarbonitrile | 27.2 g, 82% yield | C(CCCCCCC)OC1=CC=C(C=C1)C=1N=C(C(=NC1)C#N)C#N | C20H22N4O
